US08975316B2
Preparation of 1,2,4-triazol-3-yl disulfide
Glacial acetic acid (7.89 g) was added to 18.7 g of a 15% aqueous hydrogen peroxide solution. The resulting solution was added slowly to a solution prepared from 16.5 g 1,2,4-triazole-3-thiol, 160 g of water and 16.3 g 40% NaOH. The reaction temperature was moderated with the use of an ice bath during the addition. After stirring overnight at room temperature, the product was filtered, washed with water and then dried under vacuum at 70 C.

reactant | acetic acid | 7.89 g | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | OO | H2O2
reactant | 1,2,4-triazole-3-thiol | 16.5 g | N1N=C(N=C1)S | C2H3N3S
reactant | NaOH | 16.3 g | [OH-].[Na+]
solvent | water | 160 g | O | H2O
product | 1,2,4-triazol-3-yl disulfide | N1N=C(N=C1)SSC1=NNC=N1 | C4H4N6S2
